US07763725B2
Preparation of methyl 3-isothiocyanatothiophene-2-carboxylate
Thiophosgene (1.1 mL, 1.1 eq) is added dropwise to a solution cooled down to 0° C. of 3-amino-2-thiophenecarboxylate (2 g, 1 eq) and triethylamine (3.9 g, 3 eq in tetrahydrofuran (100 ml). The mixture is stirred for 15 min at 0° C. then water (70 ml) and diethyl ether (150 ml) are added. After decantation and extractions, the organic phases are combined, washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: heptane 100% to heptane/ethyl acetate 7:3) produces the expected compound in the form of a beige powder (2.15 g, 85% yield).

reactant | Thiophosgene | 1.1 mL, 1.1 eq | C(=S)(Cl)Cl | CCl2S
reactant | 3-amino-2-thiophenecarboxylate | 2 g, 1 eq | NC1=C(SC=C1)C(=O)[O-]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 70 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | methyl 3-isothiocyanatothiophene-2-carboxylate | N(=C=S)C1=C(SC=C1)C(=O)OC | C7H5NO2S2
